US04226880
Pseudomonic acid A (500 mgs) was dissolved in 2,2-dimethoxypropane (50 ml) and treated with p-toluene sulphonic acid (few crystals). After 1 hour the solution was diluted with ethyl acetate, washed with brine and dried (MgSO4). The solution was evaporated in vacuo and the residue redissolved in water-methanol (1:1, 20 ml) and potassium bicarbonate (100 mgs, 1 eq) added. The solvents were removed in vacuo and potassium selenocyanate (432 mgs, 3 eq) and iso-hexylalcoholwater (9:1, 15 ml) added and reaction refluxed for 4 days. After filtering, the reaction mixture was diluted with ethyl acetate (20 ml) and extracted with aqueous sodium bicarbonate (3×20 ml). The aqueous extracts were combined and acidified with acetic acid under a layer of ethylacetate (20 ml). After stirring for ca. 1 hour the organic layer was separated and aqueous layer further extracted with ethylacetate (3×20 ml). The combined extracts were washed with brine, dried (MgSO4) and evaporated to an oil. Chromatography of the oil on silica (5 g) gave pure pseudomonic acid C (215 mgs, 45%).

reactant | Pseudomonic acid A | 500 mgs | C[C@H]([C@H]1[C@@H](O1)C[C@H]2CO[C@H]([C@@H]([C@@H]2O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O | C26H44O9
reactant | p-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium bicarbonate | 100 mgs, 1 eq | C([O-])(O)=O.[K+]
reactant | potassium selenocyanate | 432 mgs, 3 eq | [Se-]C#N.[K+]
solvent | 2,2-dimethoxypropane | 50 ml | COC(C)(C)OC | C5H12O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | pseudomonic acid C | 215 mgs, 45% | C[C@H](/C=C/C[C@H]1CO[C@H]([C@@H]([C@@H]1O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O | C26H44O8
